US07700642B2
1.68 g of 1,2,3-trimethoxybenzene, 1.34 g of methyl trans-3-methoxyacrylate and 6 mL of glacial acetic acid were mixed, 313 mg of 35 wt % hydrochloric acid was added into the mixture at an inner temperature of 25° C., the added mixture was stirred for 16 hours at the same temperature to cause a reaction. After completion of the reaction, 30 mL of water and 50 mL of ethyl acetate were added into the reaction liquid, and extraction treatment was conducted. The resultant organic layer was washed with water, then, concentrated, and the resultant concentrated residue was purified by silica gel column chromatography (developing liquid: n-heptane/ethyl acetate=6/1 to 5/1), to obtain 0.63 g of methyl trans-3-(2,3,4-trimethoxyphenyl)acrylate (white solid). 0.92 g of the raw material 1,2,3-trimethoxybenzene was recovered. The yield of methyl 3-(2,3,4-trimethoxyphenyl)acrylate based on the converted 1,2,3-trimethoxybenzene was 55%.

reactant | 1,2,3-trimethoxybenzene | 1.68 g | COC1=C(C(=CC=C1)OC)OC | C9H12O3
reactant | methyl trans-3-methoxyacrylate | 1.34 g | CO/C=C/C(=O)OC | C5H8O3
reactant | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | methyl trans-3-(2,3,4-trimethoxyphenyl)acrylate | 0.63 g | COC1=C(C=CC(=C1OC)OC)/C=C/C(=O)OC | C13H16O5
